US08492549B2
(S)-1-[(S)-1-(2,3-Dihydro-benzo[1,4]dioxin-2-yl)methyl]-3-methyl-piperidine-3-carboxylic acid ethyl ester
A mixture of (S)-ethyl-3-methylpiperidine-3-carboxylate (7.23 g, 42.2 mmol), Toluene-4-sulfonic acid (R)-1-(2,3-dihydro-benzo[1,4]dioxin-2-yl)methyl ester (15.0 g, 44.3 mmol), potassium carbonate (6.42 g, 46.4 mmol) and N,N-dimethyl formamide (50 ml) was heated to 120° C. After 4 hours the reaction mixture was cooled down, water (35 ml) was added and the mixture was extracted twice with ethyl acetate. The combined ethyl acetate layers were evaporated to dryness. Toluene (35 ml) was added to the evaporation residue and the mixture was extracted twice with 1M HCl. The combined acidic water layers were made basic with aq NaOH. The basic water layer was extracted twice with ethyl acetate and the combined ethyl acetate layers were evaporated to dryness to yield 10.8 g (76%) of the title compound.

reactant | (S)-ethyl-3-methylpiperidine-3-carboxylate | 42.2 mmol, 7.23 g | C(C)OC(=O)[C@@]1(CNCCC1)C | C9H17NO2
reactant | Toluene-4-sulfonic acid (R)-1-(2,3-dihydro-benzo[1,4]dioxin-2-yl)methyl ester | 44.3 mmol, 15.0 g | O1[C@H](COC2=C1C=CC=C2)COS(=O)(=O)C2=CC=C(C=C2)C | C16H16O5S
reactant | potassium carbonate | 46.4 mmol, 6.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 35 ml | O | H2O
product | (S)-1-[(S)-1-(2,3-Dihydro-benzo[1,4]dioxin-2-yl)methyl]-3-methyl-piperidine-3-carboxylic acid ethyl ester | 10.8 g, 76% | C(C)OC(=O)[C@@]1(CN(CCC1)C[C@H]1COC2=C(O1)C=CC=C2)C | C18H25NO4
